US05580863
A mixture of phenol (22.41 g), sodium (5.47 g) and toluene (500 ml) was heated for 4 hours while refluxing. The reaction mixture was cooled to 85° C., and maleic anhydride (23.35 g) was added. After stirring at 85° C. for 1 hour, the reaction mixture was poured over ice-water, and the aqueous layer was collected. The aqueous layer was acidified with concentrated hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and then treated with activated charcoal, after which the solvent was distilled off, to yield fumaric acid monophenyl ester (10.59 g, 23%), which was then recrystallized from ethyl acetate-hexane to yield colorless needles having a melting point of 127° to 128° C.

reactant | phenol | 22.41 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium | 5.47 g | [Na] | Na
reactant | maleic anhydride | 23.35 g | C1(\C=C/C(=O)O1)=O | C4H2O3
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | fumaric acid monophenyl ester | 10.59 g, 23% | C1(=CC=CC=C1)OC(\C=C\C(=O)O)=O | C10H8O4
